US04328155
Using N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-chloro-5-methanesulfonamidobenzamide and dimethyl sulfate, the reaction is effected as in Example 5, whereby N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-chloro-5-(N-methylmethanesulfonamido)benzamide is obtained as crystals melting at 140.5° to 142° C.

reactant | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-chloro-5-methanesulfonamidobenzamide | C(C)N1C(CCC1)CNC(C1=C(C=C(C(=C1)NS(=O)(=O)C)Cl)OC)=O | C16H24ClN3O4S
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-chloro-5-(N-methylmethanesulfonamido)benzamide | C(C)N1C(CCC1)CNC(C1=C(C=C(C(=C1)N(S(=O)(=O)C)C)Cl)OC)=O | C17H26ClN3O4S
